US04081475
Dimethyl bis(5-tert.-butyl-2,3-dimethyl-4-hydroxybenzyl)malonate
6.6 grams of dimethyl malonate (0.05 moles), 23.5 grams of 6-tert.-butyl-2,3-dimethyl-4-(dimethylaminoaminomethyl)phenol (0.10 moles) and 0.5 grams of sodium methylate were charged to 100 ml of toluene at room temperature and heated at reflux for 41/2 hours, dimethylamine being evolved during this period. The reaction mixture cooled to room temperature was made acid with 3N aqueous hydrochloric, the toluene phase being washed with water, the wash water being separated. The desired product was insoluble in the cooled toluene phase and was isolated as white crystals by filtration. After drying and recrystallization from toluene the product melted at 204° to 207° C.

reactant | dimethyl malonate | 0.05 moles, 6.6 grams | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 6-tert.-butyl-2,3-dimethyl-4-(dimethylaminoaminomethyl)phenol | 0.10 moles, 23.5 grams | C(C)(C)(C)C1=CC(=C(C(=C1O)C)C)CNN(C)C | C15H26N2O
reactant | sodium methylate | 0.5 grams | C[O-].[Na+]
reactant | dimethylamine | CNC | C2H7N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Dimethyl bis(5-tert.-butyl-2,3-dimethyl-4-hydroxybenzyl)malonate | C(C)(C)(C)C=1C(=C(C(=C(CC(C(=O)OC)(C(=O)OC)CC2=C(C(=C(C(=C2)C(C)(C)C)O)C)C)C1)C)C)O | C31H44O6
